US05773463
(±) cis 1-(3,4-Dichlorophenoxy)-2-methylaminoindane Hydrochloride (E32)
The title compound was prepared in a similar manner to Example 26 from (±) cis 2-methylamino-1-indanol (0.815 g, 5.0 mmol), sodium hydride (0.18 g of an 80% dispersion in oil; 6.0 mmol) and 1,2-dichloro-4-fluorobenzene (0.99 g, 6.0 mmol). The crude product was purified by chromatography on silica eluting with 0-3% ethanol in diethyl ether. The resulting brown oil (1.3 g) was dissolved in hexane and treated with ethereal HCl to give the hydrochloride salt. Recrystallisation afforded the title compound as a colourless solid, m.p. 238°-239° C. (dec) (from methanoildiethyl ether).

reactant | (±) cis 2-methylamino-1-indanol | 5.0 mmol, 0.815 g | CN[C@@H]1[C@@H](C2=CC=CC=C2C1)O | C10H13NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2-dichloro-4-fluorobenzene | 6.0 mmol, 0.99 g | ClC1=C(C=C(C=C1)F)Cl | C6H3Cl2F
product | (±) cis 1-(3,4-Dichlorophenoxy)-2-methylaminoindane Hydrochloride | Cl.ClC=1C=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC)C=CC1Cl | InChI=1S/C16H15Cl2NO.ClH/c1-19-15-8-10-4-2-3-5-12(10)16(15)20-11-6-7-13(17)14(18)9-11;/h2-7,9,15-16,19H,8H2,1H3;1H/t15-,16+;/m0./s1
